US07375126B2
4-Bromo-indan-1-one O-methyl-oxime
4-Bromoindan-1-one (5.08 g, 24.1 mmol) was added to a mixture of methoxyamine hydrochloride (2.21 g, 26.5 mmol) in pyridine (40 mL) under nitrogen atmosphere and stirred overnight at ambient temperature. The reaction mixture was concentrated, added ethyl acetate (200 mL), washed with 3N hydrochloric acid (200 mL), dried with brine and anhydrous sodium sulfate, and concentrated. Obtained 4-bromoindan-1-one O-methyloxime (5.66 g, 98%) as an orange liquid. MS (DCI/NH3) m/z: 239.94 [M+H]+. 1H NMR (DMSO-d6) □: 2.83 (m, 2H), 2.96 (m, 2H), 3.91 (s, 3H), 7.25 (t, 1H), 7.56 (d, 1H), 7.60 (d, 1H).

reactant | 4-Bromoindan-1-one | 24.1 mmol, 5.08 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | methoxyamine hydrochloride | 26.5 mmol, 2.21 g | Cl.CON
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
product | 4-Bromo-indan-1-one O-methyl-oxime | CON=C1CCC2=C(C=CC=C12)Br | C10H10BrNO
